US04544501
A solution comprising 0.025 moles of P,P-bis(2,2-dimethyl-1-aziridinyl)phosphinoyl chloride in about 170 milliliters of THF, prepared in accordance with Example 1, was cooled to -15° C. and a saturated excess of gaseous methylamine was introduced to the solution through a bubbler tube in accord with the process of Example 2. The vessel and contents were warmed to about 4° C. and the saturated solution was allowed to sit overnight with constant stirring at that temperature. The resulting slurry was filtered and the filtrate was concentrated by rotary evaporation at room temperature. The thus concentrated filtrate was vacuum distilled at 94° C. and 0.14 millimeters of mercury providing a 75% yield of P,P-bis(2,2-dimethyl-1-aziridinyl)-N-methylphosphinic amide. NMR and aziridinyl titration characterization of the product indicated a purity of 98.4%.

reactant | P,P-bis(2,2-dimethyl-1-aziridinyl)phosphinoyl chloride | 0.025 moles | CC1(N(C1)P(=O)(N1C(C1)(C)C)Cl)C | C8H16ClN2OP
reactant | methylamine | CN | CH5N
solvent | THF | about 170 milliliters | C1CCOC1 | C4H8O
product | P,P-bis(2,2-dimethyl-1-aziridinyl)-N-methylphosphinic amide | 75% yield | CC1(N(C1)P(NC)(=O)N1C(C1)(C)C)C | C9H20N3OP
